US07893056B2
[(2R)-2-(Cyclopentylmethyl)-3-(2-{5-fluoro-2-methyl-6-[(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide (67 mg, 0.13 mmol) in 4:1 AcOH:water (5 mL) was stirred at room temperature overnight. The solvents were removed in vacuo, and the resulting crude product was purified by RP-HPLC to provide [(2R)-2-(cyclopentylmethyl)-3-(2-{5-fluoro-2-methyl-6-[(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-3-oxopropyl]hydroxyformamide (30 mg, 51%). LCMS: (M+H)+: 452.1.

reactant | [(2R)-2-(Cyclopentylmethyl)-3-(2-{5-fluoro-2-methyl-6-[(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | 0.13 mmol, 67 mg | C1(CCCC1)C[C@H](CN(C=O)OC1OCCCC1)C(=O)NNC1=NC(=NC(=C1F)NCC=1SC=CN1)C | C24H34FN7O4S
reactant | AcOH | CC(=O)O | C2H4O2
solvent | water | 5 mL | O | H2O
product | [(2R)-2-(cyclopentylmethyl)-3-(2-{5-fluoro-2-methyl-6-[(1,3-thiazol-2-ylmethyl)amino]-4-pyrimidinyl}hydrazino)-3-oxopropyl]hydroxyformamide | 30 mg, 51% | C1(CCCC1)C[C@H](CN(C=O)O)C(=O)NNC1=NC(=NC(=C1F)NCC=1SC=CN1)C | C19H26FN7O3S
